### PR TITLE
[Merged by Bors] - chore(Algebra/Ring/BooleanRing): replace `change` in BooleanRing.toBooleanAlgebra

### PR DESCRIPTION
**Pull request by LLaurance**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Ring/BooleanRing.lean [hunk 1]
```diff
@@ -233,8 +232,7 @@ def toBooleanAlgebra : BooleanAlgebra α :=
       change
         1 + (a + (1 + a) + a * (1 + a)) + 1 * (a + (1 + a) + a * (1 + a)) =
           a + (1 + a) + a * (1 + a)
-      simp [mul_add, mul_self, add_self]
-      rw [← add_assoc, add_self] }
+      simp [mul_add, mul_self, add_self, ← add_assoc, add_comm] }
```
Comment (Multramate) [inline Mathlib/Algebra/Ring/BooleanRing.lean]:
```suggestion
      simp [mul_add, ← add_assoc, add_comm] }
```

**Review by Multramate — APPROVED** [review]
LGTM, but a `change` right before this line is a code smell. Can it be golfed further?

**Comment by Vierkantor** [comment]
Agreed with @Multramate that we should replace that `change` with a `suffices` and a rewriting tactic (like `rw`/`simp`/`ring`/...).

File: Mathlib/Algebra/Ring/BooleanRing.lean [hunk 2]
```diff
@@ -228,11 +228,9 @@ def toBooleanAlgebra : BooleanAlgebra α :=
...
     inf_compl_le_bot := fun a =>
       show a * (1 + a) + 0 + a * (1 + a) * 0 = 0 by simp [mul_add, mul_self, add_self]
-    top_le_sup_compl := fun a => by
-      change
-        1 + (a + (1 + a) + a * (1 + a)) + 1 * (a + (1 + a) + a * (1 + a)) =
-          a + (1 + a) + a * (1 + a)
-      simp [mul_add, mul_self, add_self, ← add_assoc 1 a] }
+    top_le_sup_compl := fun a =>
+      show 1 + (a + (1 + a) + a * (1 + a)) + 1 * (a + (1 + a) + a * (1 + a)) =
+        a + (1 + a) + a * (1 + a) by simp [mul_add, ← add_assoc, add_comm] }
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Ring/BooleanRing.lean]: The `show` is no better than `change`. I suggest:
```lean
protected theorem sup_def (a b : α) : a ⊔ b = a + b + a * b := rfl
protected theorem inf_def (a b : α) : a ⊓ b = a * b := rfl

@[instance_reducible]
def toBooleanAlgebra : BooleanAlgebra α :=
  { Lattice.mk' sup_comm sup_assoc inf_comm inf_assoc sup_inf_self inf_sup_self with
    le_sup_inf := le_sup_inf
    top := 1
    le_top a := by simp [← sup_eq_right, BooleanRing.sup_def, add_right_comm]
    bot := 0
    bot_le a := by simp [← sup_eq_right, BooleanRing.sup_def]
    compl a := 1 + a
    inf_compl_le_bot a := by simp [BooleanRing.inf_def]
    top_le_sup_compl a := by simp [BooleanRing.sup_def, mul_add, ← add_assoc, add_comm] }
```

**Review by Ruben-VandeVelde — CHANGES_REQUESTED** [review]
I don't see a "TODO" or a non-terminal simp, so you probably should adjust the PR title

**Comment by jjdishere** [comment]
LGTM. Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
